US08389717B2
a) (4-Chloro-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
This compound was prepared from 3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamine and 2,4-dichloro-1,3,5-triazine in analogy to example 2a. The compound precipitated from methanol in 50% yield.

reactant | 3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamine | COC=1C=C(C=CC1N1C=NC(=C1)C)N | C11H13N3O
reactant | 2,4-dichloro-1,3,5-triazine | ClC1=NC=NC(=N1)Cl | C3HCl2N3
product | (4-Chloro-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 50% yield | ClC1=NC(=NC=N1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C14H13ClN6O
